US07863294B2
Step 1: 4-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole-2-carbaldehyde (KK1)
To a stirred solution of 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole (See WO03/022274) (1 eq) in THF at 40° C. was added dropwise a solution of BuLi (2 eq.) in hexanes and the mixture was stirred at 40° C. for a further 30 min. DMF (4 eq.) was then added and the cooling bath was removed and the reaction mixture was allowed to warm to RT and stirred for 30 min, after which time it was quenched by addition of a sat. aq. NH4Cl solution. The organics were extracted with EtOAc (2×), washed with brine, dried (Na2SO4) and concentrated under reduced pressure. The material was purified by column chromatography on silica eluting with 15% EtOAc/petroleum ether. 1H NMR (300 MHz, CDCl3) δ: 9.81 (1H, s), 7.30 (1H, s), 5.95 (2H, s), 4.87, (2H, s), 3.58 (2H, t, J=7.7 Hz), 1.05-0.85 (20H, m), 0.05 (6H, s).

reactant | 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole | [Si](C)(C)(C(C)(C)C)OCC=1N=CN(C1)COCC[Si](C)(C)C | C16H34N2O2Si2
reactant | BuLi | 2 eq. | [Li]CCCC
reactant | DMF | 4 eq. | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 4-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole-2-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCC=1N=C(N(C1)COCC[Si](C)(C)C)C=O | C17H34N2O3Si2
